US05576324
2-(N,N-Dimethylglycyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
2-Aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.3 g, 10 mmol) was dissolved in dimethylformamide (100 ml) while being cooled on ice. To the obtained mixture, a hydrochloric acid salt of N,N-dimethylglycine (1.45 g, 11 mmol), WSC.HCl (2.0 g, 11.0 mmol), and HOBT (1.4 g, 11.0 mmol) were added, and the resultant mixture was stirred at room temperature overnight. The reaction mixture was subjected to distillation under reduced pressure. The resultant residue was recrystallized from ethanol--hexane. As a result, 2.7 g of the title compound was obtained as pale yellow powdery crystals (77.0%)

reactant | 2-Aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 10 mmol, 2.3 g | NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H14N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylglycine | 11 mmol, 1.45 g | CN(CC(=O)O)C | C4H9NO2
reactant | WSC.HCl | 11.0 mmol, 2.0 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 11.0 mmol, 1.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(N,N-Dimethylglycyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 2.7 g | CN(CC(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1)C | C17H21N3O3
